US06211234B1
A solution of ethyl (RS)-4-[2-(4,5-dihydrooxazol-2-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (500 mg) in methanol (50 mL) containing 10% w/v potassium carbonate (5 mL) is stirred at ambient temperature for 16 hours. The reaction mixture is concentrated under reduced pressure and partitioned between water (100 mL) and ethyl acetate (100 mL) then acidified to pH 5 with 1 N HCl. The organic phase is washed three times with water (50 mL), dried over magnesium sulphate, filtered and concentrated under reduced pressure. Recrystallisation from cyclohexane/ethyl acetate gives (RS)-4-[2-(4,5-dihydrooxazol-2-yl))-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid hydrate as a white solid (160 mg), m.p. 107-109° C. [Elemental analysis:- C,65.9, H, 5.69, N, 2.94%. Calculated for C25H25NO5S.0.2H2O:- C,66.0, H, 5.59, N, 3.01%].

reactant | ethyl (RS)-4-[2-(4,5-dihydrooxazol-2-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 500 mg | O1C(=NCC1)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C27H29NO5S
reactant | potassium carbonate | 5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-(2-methylphenyl)butanoic acid hydrate | 160 mg | O.CC1=C(C=CC=C1)CCCC(=O)O | InChI=1S/C11H14O2.H2O/c1-9-5-2-3-6-10(9)7-4-8-11(12)13;/h2-3,5-6H,4,7-8H2,1H3,(H,12,13);1H2
